US05635510
12.1 Synthesis of 2-(2-naphthyl)-4-(tetrahydro-pyran-2-yloxy)-butyronitrile (003F112)
2-Napthylacetonitrile (3.3442 g, 20 mmol) in THF (50 mL) was added to sodium hydride (0.528 g, 22 mmol, 1.1 eq.) in THF (50 mL) at -78° C. under nitrogen. The slurry was allowed to warm to 20° C. and stir for 2 hours. The slurry was cooled to 0° C. and 2-(2-bromo-ethoxy)-tetrahydro-pyran (4.1786 g, 20 mmol, 1 eq.) was added. The solution was allowed to stir at 20° C. for 16 hours and then diluted with dichloromethane and washed with water. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel with a gradient from 5% ethyl acetate in hexane to ethyl acetate to give 1.9774 g (66%) of the title compound. 12.2 Synthesis of 3-cyano-3-naphthalen-2-yl-5-(tetrahydro-pyran-2-yloxy)-pentanoic acid ethyl ester (003F143).

reactant | 2-Napthylacetonitrile | 20 mmol, 3.3442 g | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | sodium hydride | 22 mmol, 0.528 g, 1.1 eq. | [H-].[Na+]
reactant | 2-(2-bromo-ethoxy)-tetrahydro-pyran | 20 mmol, 4.1786 g, 1 eq. | BrCCOC1OCCCC1 | C7H13BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-naphthyl)-4-(tetrahydro-pyran-2-yloxy)-butyronitrile | 1.9774 g, 66% | C1=C(C=CC2=CC=CC=C12)C(C#N)CCOC1OCCCC1 | C19H21NO2
